US08835472B2
N-{2-[4-(4-Ethoxy-phenylethynyl)-phenyl]-1-methyl-ethyl}-N-methyl-acetamide
32.1 mg (100 μmol) N-{2-[4-(4-ethoxy-phenylethynyl)-phenyl]-1-methyl-ethyl}-acetamide are added to an ice cooled mixture of 40.0 mg (1.00 mmol) sodium NaH and 2.50 mL THF. The reaction mixture is stirred at 0° C. for 10 min. Then 25.0 μL (0.40 mmol) methyliodide are added dropwise and the mixture is stirred at r.t. for 2 h. The reaction is quenched by the addition of water and sat. NH4Cl solution, and is extracted with DCM. The organic layer is separated and the solvent is removed in vacuo. The residue is lyophilised from ACN/water.

reactant | N-{2-[4-(4-ethoxy-phenylethynyl)-phenyl]-1-methyl-ethyl}-acetamide | 100 μmol, 32.1 mg | C(C)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CC(C)NC(C)=O | C21H23NO2
reactant | sodium NaH | 1.00 mmol, 40.0 mg | [Na].[H-].[Na+]
reactant | methyliodide | 0.40 mmol, 25.0 μL | CI | CH3I
solvent | THF | 2.50 mL | C1CCOC1 | C4H8O
product | N-{2-[4-(4-Ethoxy-phenylethynyl)-phenyl]-1-methyl-ethyl}-N-methyl-acetamide | C(C)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CC(C)N(C(C)=O)C | C22H25NO2
